US04113678
Bis(ethoxycarbonylethylene)tin sulfide
To a solution of 78.4g (0.2 mole) bis(ethoxycarbonylethylene)tin dichloride in 160 ml toluene was added 15.6g (0.2 mole) sodium sulfide as a 40% aqueous solution, while warming the mixture to maintain 85°-90° C. After the completion of the reaction, the layers were separated and the toluene solution of the product vacuum stripped to give the product as a viscous liquid, with refractive index 1.573 at 25° C and infra-red absorption peaks at 1700, 1660, and 1190. The product analyzed 33.9% tin, (C2H5OCOCH2CH2)2SnS requires 33.7% Sn.

reactant | bis(ethoxycarbonylethylene)tin dichloride | 0.2 mole, 78.4g | C(C)OC(=O)CC[Sn](CCC(=O)OCC)(Cl)Cl
reactant | sodium sulfide | 0.2 mole, 15.6g | [S-2].[Na+].[Na+]
solvent | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
product | Bis(ethoxycarbonylethylene)tin sulfide | C(C)OC(=O)CC[Sn](CCC(=O)OCC)=S | InChI=1S/2C5H9O2.S.Sn/c2*1-3-5(6)7-4-2;;/h2*1,3-4H2,2H3;;
